2118-08-28 08:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Patient was on dopamine for 2200- 0000 stopped b/c MAPs were high
   started on dobutamine 0000-0100 secondary to becoming too dynamic
   Re-started dopamine at 4 and now at 5.
   vecuronium was added secondary to shivering, now stopped
   Bradycardia to 40 for now likely secondary to cooling protocal.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Dopamine - 5 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2118-8-27**] 09:09 PM
   Fentanyl - [**2118-8-27**] 09:19 PM
   Vecuronium - [**2118-8-27**] 10:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to assess
   Flowsheet Data as of  [**2118-8-28**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 43 (43 - 84) bpm
   BP: 95/59(67) {72/54(58) - 120/81(88)} mmHg
   RR: 15 (10 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 69 Inch
    CVP: 13 (12 - 23)mmHg
   PAP: (36 mmHg) / (17 mmHg)
   CO/CI (Fick): (8.2 L/min) / (3.8 L/min/m2)
   Mixed Venous O2% Sat: 79 - 81
   Total In:
                                                                  1,315 mL
                                                                  1,279 mL
   PO:
   TF:
   IVF:
                                                                  1,315 mL
                                                                  1,279 mL
   Blood products:
   Total out:
                                                                  1,520 mL
                                                                  1,800 mL
   Urine:
                                                                  1,520 mL
                                                                  1,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -205 mL
                                                                   -521 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   600/15/5/40
   RSBI Deferred: Neuromusc Block
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.47/24/206/18/-3
   Ve: 7.4 L/min
   PaO2 / FiO2: 515
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese; intubated; paralyzed
   Eyes / Conjunctiva: Pupils minimally reactive.
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Obese; femoral on right and left
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   197 K/uL
   12.8 g/dL
   146 mg/dL
   1.0 mg/dL
   18 mEq/L
   4.4 mEq/L
   19 mg/dL
   110 mEq/L
   142 mEq/L
   37.7 %
   15.4 K/uL
        [image002.jpg]
                                     pH
                                    7.47
                                    pCO2
                                     24
                                     pO2
                                     206
                                    HCO3
                                     18
                                   BaseXS
                                     -3
   Lactate 4.1
                             [**2118-8-27**]  07:45 PM
                             [**2118-8-28**]  01:00 AM
                             [**2118-8-28**]  02:31 AM
                             [**2118-8-28**]  04:01 AM
   WBC
   20.8
   15.4
   Hct
   38.7
   38
   37.7
   Plt
   293
   197
   Cr
   1.2
   1.0
   TropT
   8.11
   6.27
   TCO2
   18
   Glucose
   174
   146
   Other labs: PT / PTT / INR:13.9/28.9/1.2, CK / CKMB /
   Troponin-T:3402/242/6.27, ALT / AST:288/415, Alk Phos / T Bili:81/0.7,
   Differential-Neuts:88.4 %, Lymph:5.4 %, Mono:6.0 %, Eos:0.2 %, Lactic
   Acid:4.4 mmol/L, LDH:952 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:1.5
   mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN:  The patient is a 61 yo man with h/o CAD s/p DES
   to the LAD and D1, and hyperlipidemia, who presented from [**Hospital1 **] with STEMI and is now s/p BMS to the RCA.
   .
   # STEMI:  The patient presented with chest pain and subsequently lost
   consciousness at [**Hospital3 519**].  He was found to have STe in II, III,
   AVF, and after one hour of resuscitiation, subsequent cardiac
   catheterization demonstrated a fresh thrombus in the mid-RCA.  Heparin
   and integrilin gtts were held, and he was started on cooling protocol.
   He was on Dopamine briefly prior to cardiac catheterization. Rewarming
   starts at 1130
    - Continue cooling protocol with Fentanyl/Verset for sedation and
   Vecuronium for paralytics for 18 hours
    - Continue to monitor CK, troponins x3
   - Continue to hold heparin and integrilin, given significant bleeding
   from nose
    - Hold on Lasix for now, as patient is pre-load dependent
    - Give IVFs as needed to maintain MAPs > 60
    - Continue Dopamine to maintain MAP > 60.
    - Monitor for bradycardia, hypotension, and electrolyte shifts with
   cooling protocol
   -  Atropine if patient becomes increasingly bradycardic.
    - Continue ASA 325 mg daily, Plavix 75 mg daily
    - Increase Lipitor to 80 mg daily
    - Start low dose BB as BP tolerates
    - Repeat ECG  tomorrow AM.
    - Replete lytes
   - TTE tomorrow
   - If pt develops pulmonary edema, consider acute MR, contact cards
   fellow.
   .
   #. Respiratory Distress:  The patient was intubated at [**Hospital3 519**]
   in the setting of cardiac arrest.  He was fighting the ventilator on
   arrival and his initial ABG was 7.23/40/273.  After cardiac
   catheterization, he became more stable on the ventilator and his
   current ABG returned 7.47/24/206; Improving, but now with low pCO@
    - Continue on CMV during cooling protocol
    - Aim for pO2 in the low 100s (decrease free radicals) and CO2 between
   35 and 40.
    - Continue VAP precautions with raising the HOB to 30%
   # RHYTHM:  The patient presented in VFib arrest and then had a
   junctional rhythm.  He is currently in sinus rhythm.
    - Continue to monitor on telemetry.
    - Continue to replete K > 4.0 and Mg > 2.0
   # Acute Systolic Congestive Heart Failure:  The patient had an acute RV
   infarct this afternoon, and his hemodynamics in the cath lab
   demonstrated increased biventricular filling pressures.  He does not
   have a known history of CHF, per our records, and these elevated
   filling pressures are most likely [**3-14**] his acute RV infarct.
    - TTE tomorrow.
    - Hold on diuresis for now, as patient is pre-load dependent.
    - Dopamine gtt for now to increase contracility and CO
   .
   # Nose bleed:  The patient had a persistent nose bleed this afternoon
   in the setting of traumatic NGT placement and integrilin/heparin gtts.
   The bleeding appears to have stopped with Afrin nasal spray, and the
   patient's Hct has remained stable.
    - Recheck Hct q6h
    - Continue Afrin NS
    - Consider ENT C/S if bleeding starts again.
   .
   #Lactic Acidosis: Lactate 10 in cath to 4.1 today; improving
      - 2 amps of bicarb given
      - Consult with RT to balance RR with acidosis
      - continue to monitor with q 12 lactates
   #Shock Liver: Elevated Enzymes s/p resuscitation AST 415 ALT 288 and
   trended down this AM.
   - Continue to monitor daily LFTs
   .
   # Diabetes: Unsure of home medications as cannot obtain records or an
   emergency contact
         -Elevated BS on Chemistries
        - Start sliding scale today and continue to monitor FSBS
   #  Identity:  The patient presented from [**Hospital3 519**] with minimal
   paperwork, after driving there himself.  Records from [**Hospital1 12**] gave his
   mother, [**Name (NI) 7816**] [**Name (NI) 7817**] ([**Telephone/Fax (1) 7818**]) as his next of [**Doctor First Name 23**].  He is single
   and not married.  The patient has a cell phone, but no saved numbers.
    - Consider Ethics C/S in the am re: calling numbers from phone in
   order to alert family
    - Re-attempt calling patient's mother in am.
   .
   ICU Care
   Nutrition:
   Comments: NPO for now; consider starting tube feeds after warming
   Glycemic Control: Regular insulin sliding scale
   Lines:
   PA Catheter - [**2118-8-27**] 06:30 PM
   Cordis/Introducer - [**2118-8-27**] 06:30 PM
   20 Gauge - [**2118-8-27**] 06:30 PM
   18 Gauge - [**2118-8-27**] 06:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 Blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments: Multiple attempts were made to contact
   family/find more information regarding the patient.  Ethics C/S may be
   needed tomorrow.
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   Post IPRVMI now about to commence warming; continue supportive care
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2118-8-29**]
   09:21 ------

2118-08-29 06:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Rewarming start at 5pm yesterday afternoon. Lytes  and coags monitored
   throughout the rewarming process and were stable. Dopamine was
   continued for borderline MAPs and is now at 5.
   Rewarming started patient began to spontaneously move arms.
   - Clopidogrel, Atorvastatin, and ASA started.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 5 mcg/Kg/min
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2118-8-28**] 09:30 AM
   Vecuronium - [**2118-8-28**] 10:30 AM
   Heparin Sodium (Prophylaxis) - [**2118-8-28**] 10:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-8-29**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 72 (39 - 79) bpm
   Temp:  Tmax 100.7
   BP: 99/53(63) {85/45(55) - 127/71(84)} mmHg
   RR: 15 (9 - 18) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 69 Inch
    CVP: 12 (7 - 22)mmHg
   PAP: (34 mmHg) / (17 mmHg)
   CO/CI (Fick): (8.5 L/min) / (4 L/min/m2)
   Mixed Venous O2% Sat: 74 - 80
   Total In:
                                                                  2,505 mL
                                                                    175 mL
   PO:
   TF:
   IVF:
                                                                  2,235 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  3,295 mL
                                                                    330 mL
   Urine:
                                                                  2,755 mL
                                                                    330 mL
   NG:
                                                                    540 mL
   Stool:
   Drains:
   Balance:
                                                                   -790 mL
                                                                   -155 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.40/45/95.[**Numeric Identifier 253**]/24/1
   Ve: 8.6 L/min
   PaO2 / FiO2: 274
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese; intubated; paralyzed
   Eyes / Conjunctiva: Pupils minimally reactive.
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: 1+), (Left radial pulse: 1+),
   (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear, No
   wheezes/rhonchi/crackles appreciated in anterior lung fields )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Obese; femoral on right
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: With decreased sedation this morning, patient opens eyes to
   name and appears to comprehend, Some difficulty with following
   directions like tracking my finger. Pupils are 2mm bilaterally and
   sluggish.
   Labs / Radiology
   162 K/uL
   10.7 g/dL
   117 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.8 mEq/L
   22 mg/dL
   110 mEq/L
   142 mEq/L
   31.0 %
   10.8 K/uL
        [image002.jpg]
                             [**2118-8-28**]  01:00 AM
                             [**2118-8-28**]  02:31 AM
                             [**2118-8-28**]  04:01 AM
                             [**2118-8-28**]  09:37 AM
                             [**2118-8-28**]  02:07 PM
                             [**2118-8-28**]  05:59 PM
                             [**2118-8-28**]  10:00 PM
                             [**2118-8-28**]  10:45 PM
                             [**2118-8-29**]  01:47 AM
                             [**2118-8-29**]  03:41 AM
   WBC
   15.4
   16.0
   14.5
   14.7
   12.4
   11.0
   10.8
   Hct
   38
   37.7
   32.4
   34.4
   33.3
   33.3
   33.8
   31.0
   Plt
   197
   224
   218
   184
   180
   185
   162
   Cr
   1.0
   0.8
   0.8
   0.7
   0.8
   0.8
   0.8
   TropT
   6.27
   5.06
   4.29
   3.67
   TCO2
   18
   29
   Glucose
   146
   93
   130
   135
   112
   102
   117
   Other labs: PT / PTT / INR:13.9/39.2/1.2, CK / CKMB /
   Troponin-T:3271/93/3.67, ALT / AST:169/209, Alk Phos / T Bili:60/0.6,
   Differential-Neuts:88.4 %, Lymph:5.4 %, Mono:6.0 %, Eos:0.2 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.8 g/dL, LDH:781 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.3 mg/dL
                                     pH
                                    7.40
                                    pCO2
                                     45
                                     pO2
                                     96
                                    HCO3
                                     29
                                   BaseXS
                                      1
   Type:Art; Intubated; Temp:36.1
   Lactate:1.6
   Assessment and Plan
   The patient is a 61 yo man with h/o CAD s/p DES to the LAD and D1, and
   hyperlipidemia, who presented from [**Hospital3 519**] with STEMI.  He is
   now s/p vfib arrest and was coded for approximately 54 minutes.  He is
   now also s/p BMS to the RCA.
   .
   # STEMI: He was found to have STe in II, III, AVF, and after one hour
   of resuscitiation, subsequent cardiac catheterization demonstrated a
   fresh thrombus in the mid-RCA.  Heparin and integrilin gtts were held
   secondary to nose bleed. He was started on cooling protocol.  Cardiac
   enzymes continue to trend down overnight.
    - Fentanyl/Versed for sedation
   -  Continue to hold heparin and integrilin, given significant bleeding
   from nose, started on SC heparin for DVT proph
    - Hold on Lasix for now, as patient is pre-load dependent
   -  Wean Dopamine as long as MAP >60, as patient now currently
   revascularized, but may need to continue due to low BP
   -  Atropine if patient becomes increasingly bradycardic
    - Continue ASA 325 mg daily, Plavix 75 mg daily
    - Increased Lipitor to 80 mg daily
    - Start low dose Beta Blocker as BP tolerates
    - Repeat ECG this am.
   -  FU TTE results today (pending)
   - If pt develops pulmonary edema, consider acute MR, contact cards
   fellow.
   .
   #. Respiratory Distress:  ABG 7.4/45/96 on AC (400, 15, 5, 35%)
    -  PS with attempt at extubation today, Wean CMV as tolerated.
    - Aim for pO2 in the low 100s (decrease free radicals) and CO2 between
   35 and 40.
    - Continue VAP precautions with raising the HOB to 30%
   #Neuro Status: Patient with EEG overnight. Neuro will reevaluate
   further today. Patient responds to name and can move bilateral upper
   extremity.
   -          FU Neuro recommendations
   -          FU EEG recommendations
   -          Wean sedation as tolerated
   # RHYTHM:  The patient presented in VFib arrest and then had a
   junctional rhythm.  He is currently in sinus rhythm.
    - Continue to monitor on telemetry.
    - Continue to replete K > 4.0 and Mg > 2.0
   #Fever: After rewarming patient with low grade temperatures this
   morning on continual monitoring (100.7). Given prolonged resuscitation,
   intubation aspiration pneumonia is high on the differential. Will also
   consider sepsis, UTI.
   -          Blood Cultures x 2
   -          UA, Urine Cultures
   -          FU Chest Xray from today
   -          If spikes white count, continues to be febrile, consider
   covering empirically with Vanc/Zosyn.
   # Acute Systolic Congestive Heart Failure:  He does not have a known
   history of CHF, per our records, and these elevated filling pressures
   seen in the cath lab are most likely [**3-14**] his acute RV infarct.
    - TTE today, will FU results
    - Hold on diuresis for now, as patient is pre-load dependent.
    - Dopamine gtt currently, will attempt to wean today
   .
   # Nose bleed:  Stable. Without rebleed in the last 24 hours. HCT stable
    - Continue Afrin NS as needed.
    - Consider ENT C/S if bleeding starts again.
   .
   #Lactic Acidosis: Lactate 10 in cath to 1.6 today.
   #Shock Liver: LFTs continue to trend down. Normal INR.
   - Continue to monitor daily LFTs
   .
   # Diabetes: Will discuss with pcp/cardiologist today
   - Continue sliding scale today and continue to monitor FSBS
   ICU Care
   Nutrition:
   Comments: NPO for now; consider starting tube feeds after extubation
   attempt
   Glycemic Control: Regular insulin sliding scale
   Lines:
   PA Catheter - [**2118-8-27**] 06:30 PM
   Cordis/Introducer - [**2118-8-27**] 06:30 PM
   20 Gauge - [**2118-8-27**] 06:30 PM
   18 Gauge - [**2118-8-27**] 06:30 PM
   Will d/c right femoral line
   Prophylaxis:
   DVT: Boots, SC heparin
   Stress ulcer: H2 Blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments: [**Name (NI) 412**] (Sister in [**Name2 (NI) **]) Primary Contact
   [**Telephone/Fax (1) 7845**]. [**Name (NI) 189**] [**Name (NI) 7817**] (Sister) [**0-0-**].
   Code status: Full code
   Disposition: ICU (needs ICU consent form)
   ------ Protected Section ------
   To my surprise, the echocardiogram from this morning shows exdcellent
   LV function (LVEF > 60), albeit perhaps with a little focal inferior
   wall HK.  The RV, which we expected to be somewhat dysfunctional, is
   only mildly (if at all) hypocontractile.  His lowish BP even on
   dopamine may therefore reflect relative hypovolemia, so therefore we
   will give him some volume back and try to wean off diopamine.  His
   respiratory function appears OK for weaning and extubation today.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2118-8-29**]
   11:43 ------

2118-08-30 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: STEMI
   24 Hour Events:
   Weaned dopamine throughout the day, now completely off, given 1.5L
   bolus to maintain pressure.  MAP's in the 60's throughout the
   afternoon.  Dropped to 50's at about 11pm - given 1L bolus plus put on
   maintenance fluids.
   Temp to 101.1 yesterday with lots of brownish secretions, given tylenol
   per rectum.
   - Outpt cardiologist felt that patient likely aspirated (he witnessed
   the code).
   - Pulled right fem line yesterday
   -RT felt that should not attempt extubation [**3-14**] increased secretions
   yesterday - will attempt to extubate today
   - Neuro will continue to watch, feel that EEG and clinical exam
   promising.  No need for imaging at this time.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2118-8-29**] 02:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Could not assess
   Flowsheet Data as of  [**2118-8-30**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.2
C (99
   HR: 64 (61 - 90) bpm
   BP: 111/62(74) {84/39(41) - 113/68(76)} mmHg
   RR: 19 (10 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 12 (7 - 14)mmHg
   PAP: (40 mmHg) / (18 mmHg)
   CO/CI (Fick): (10.2 L/min) / (4.8 L/min/m2)
   Mixed Venous O2% Sat: 78 - 78
   Total In:
                                                                  3,340 mL
                                                                    789 mL
   PO:
   TF:
   IVF:
                                                                  3,340 mL
                                                                    789 mL
   Blood products:
   Total out:
                                                                    935 mL
                                                                    420 mL
   Urine:
                                                                    935 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,405 mL
                                                                    369 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 400 (400 - 640) mL
   PS : 5 cmH2O
   RR (Set): 15
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 40
   PIP: 11 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.38/48/80 /24/1
   Ve: 9.6 L/min
   PaO2 / FiO2: 229
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese; intubated; asleep and agitated when awoken, and quickly falls
   asleep again
   Eyes / Conjunctiva: Pupils minimally reactive.
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: 2+), (Left DP pulse: 2+)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear,
   Rhonchi in anterior fields;  No wheezes/crackles appreciated in
   anterior lung fields )
   Abdominal: Soft, Non-tender, High Pitched Bowel sounds present, No(t)
   Distended, Obese;
   Extremities: Right: trace; Left: trace edema
   Skin:  Not assessed
   Neurologic: GCS 14T, With decreased sedation this morning, patient
   opens eyes to name and actively moving all extremities, intermittently
   follows simple commands
   Labs / Radiology
   149 K/uL
   9.1 g/dL
   124 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.3 mEq/L
   29 mg/dL
   113 mEq/L
   143 mEq/L
   27.0 %
   10.2 K/uL
        [image002.jpg]
                             [**2118-8-28**]  02:07 PM
                             [**2118-8-28**]  05:59 PM
                             [**2118-8-28**]  10:00 PM
                             [**2118-8-28**]  10:45 PM
                             [**2118-8-29**]  01:47 AM
                             [**2118-8-29**]  03:41 AM
                             [**2118-8-29**]  11:31 AM
                             [**2118-8-29**]  02:45 PM
                             [**2118-8-29**]  03:05 PM
                             [**2118-8-30**]  03:45 AM
   WBC
   14.5
   14.7
   12.4
   11.0
   10.8
   9.6
   10.2
   Hct
   34.4
   33.3
   33.3
   33.8
   31.0
   28.5
   31
   27.0
   Plt
   [**Telephone/Fax (3) 7868**]85
   162
   162
   149
   Cr
   0.8
   0.7
   0.8
   0.8
   0.8
   1.0
   1.0
   TropT
   4.29
   3.67
   3.23
   2.36
   TCO2
   29
   29
   Glucose
   130
   135
   112
   102
   117
   122
   124
   Other labs: PT / PTT / INR:13.9/37.5/1.2, CK / CKMB /
   Troponin-T:2123/12/2.36, ALT / AST:110/112, Alk Phos / T Bili:55/0.6,
   Differential-Neuts:88.4 %, Lymph:5.4 %, Mono:6.0 %, Eos:0.2 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.8 g/dL, LDH:781 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.3 mg/dL
Sputum Culture Prelim: GRAM STAIN (Final [**2118-8-29**]):
      <10 PMNs and <10 epithelial cells/100X field.
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      QUALITY OF SPECIMEN CANNOT BE ASSESSED.
UA: Moderate blood; trace protein; 26 RBC, 14 WBC, Few bacteria
Echo: Normal biventricular cavity sizes with preserved global biventricular syst
olic function. No definite valvular pathology or pathologic flow identified. Dil
ated aortic root. LVEF: >55%, EstCI: >2.5L/min/m2, trivial MR/TR
UCx, BCx pending
CXR: Pending
   Assessment and Plan
   The patient is a 61 yo man with h/o CAD s/p DES to the LAD and D1, and
   hyperlipidemia, who presented from [**Hospital3 519**] with STEMI.  He is
   now s/p vfib arrest and was coded for approximately 54 minutes.  He is
   now also s/p BMS to the RCA.
   .
   # ?Pneumonia/Fever: With increasing secretions, fever, prelim sputum
   culture showing some growth, and increasing infiltrate on CXR; concern
   for pneumonia; 1.  Aspiration: Prolonged resuscitation in OSH; 2.  VAP
   as patient has been ventilated for 3 days.  Lower on differential, but
   cannot rule out 3. UTI as UA is not pristine. 4. Also line sepsis is on
   the list
as patient has had femoral lines placed during cath.
   Encouraging is that patient does have normal white count without bands.
   -          Start empiric therapy for PNA today -> Zosyn/Vanc (day 1
   [**8-30**])
   -          Will send another sputum gram stain and culture
   -          Continue to follow with daily CXRs
   -          UCx, Blood Cx
s, and Femoral Tip Cx pending; will follow up
   # STEMI: He was found to have STe in II, III, AVF, and after one hour
   of resuscitiation, subsequent cardiac catheterization demonstrated a
   fresh thrombus in the mid-RCA.  Heparin and integrilin gtts were held
   secondary to nose bleed. He was started on cooling protocol.  Cardiac
   enzymes continue to trend down this morning. Patient status improving,
   now off pressors and fluid boluses prn for pressure control.
   - Attempt to wean Fentanyl/Versed for sedation
   -  Dopamine stopped, and monitor for MAPs <60.  If low BP, will bolus
   with IVF.
   -  Continue to hold heparin and integrilin, given significant bleeding
   from nose, started on SC heparin for DVT proph
   - Continue ASA 325 mg daily, Plavix 75 mg daily
   - Continue Lipitor to 80 mg daily
   - Attempt to start low dose Beta Blocker as BP tolerates
   - If pt develops pulmonary edema, consider acute MR, contact cards
   fellow.
   .
   #. Respiratory Distress:  ABG on PS 7.38/48/80 with FIO2 of 35;
   patient
s respiratory status improving. Continuing vent support
   secondary to unable to manage secretions yesterday. Moderate amount of
   tan/thick secretions.
     -  Continue with daily RSBI tests & SBT's as tolerated to wean off of
   PS.  Will attempt extubation today.
    -  Aim for pO2 in the low 100s (decrease free radicals) and CO2
   between 35 and 40.
    -  Continue VAP precautions with raising the HOB to 30%
   #Neuro Status: Patient with EEG overnight. Patient responds to name and
   actively moving all extremities. Neuro feels this is promising.
   -          FU Neuro recommendations
   -          FU EEG recommendations
   -          Wean sedation as tolerated
   # RHYTHM:  The patient presented in VFib arrest and then had a
   junctional rhythm.  He is currently in sinus rhythm.
    - Continue to monitor on telemetry.
    - Continue to replete K > 4.0 and Mg > 2.0
   # Acute Systolic Congestive Heart Failure:  He does not have a known
   history of CHF, per our records, and these elevated filling pressures
   seen in the cath lab are most likely [**3-14**] his acute RV infarct.
   Currently stable disease as patient does not appear fluid overloaded.
    - TTE with LVEF > 55% without wall motion abnormalities is encouraging
   for minimal disease
    - Hold on diuresis for now, as patient is pre-load dependent
    - Will continue to follow for signs of fluid overload, and diurese as
   needed
   .
   # Nose bleed:  With bloody secretions from the back of his throat this
   morning.. HCT trending down 31->27
   - q 12 Hct,
   - transfuse if Hct <21
   - Active type/screen and crossmatch
   - Continue Afrin NS as needed
   - Consider ENT C/S if bleeding starts again
   #Thrombocytopenia: Platelets down from 218 ([**8-28**]) to 149 today.
   Possibly early-onset HIT which is of little consequence. But cannot
   rule out other causes.
   - Check CBC this PM
   .
    #Shock Liver: LFTs continue to trend down. Normal INR.
   - Continue to monitor daily LFTs
   .
   # Diabetes:
   - Continue sliding scale today and continue to monitor FSBS
   .
   #Lactic Acidosis: Lactate 10 in cath to 1.6 [**8-28**]. Resolved.
   ICU Care
   Nutrition: NPO for now, will hold until extubated
   Comments: Glycemic Control: Regular insulin sliding scale
   Lines:
   20 Gauge - [**2118-8-27**] 06:30 PM
   18 Gauge - [**2118-8-27**] 06:30 PM
   Prophylaxis:
   DVT: Boots, SC heparin
   Stress ulcer: H2 Blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments: [**Name (NI) 412**] (Sister in [**Name2 (NI) **]) Primary Contact
   [**Telephone/Fax (1) 7845**]. [**Name (NI) 189**] [**Name (NI) 7817**] (Sister) [**0-0-**].
   Code status: Full code
   Disposition: ICU (needs ICU consent form)
   ------ Protected Section ------
   Overall doing well; possible asp pneumonia to be rxed with vanco a
   zosyn.  Despite possible asp pna, we feel he can be extubated; his
   mental status is improving and he is likely to do well post extubation
   with reduction of sedative medication.  Cardiac: LV and RV both look
   much better than I had anticipated.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2118-8-30**]
   10:45 ------

2118-08-31 07:03:00 Physician Resident Progress Note
TITLE:  CCU Progress Note
   Chief Complaint: S/p cardiac arrest
   24 Hour Events:
   - Patient interactive and asking questions this morning, with no pain.
   - Patient extubated yesterday without complication.  He was initially
   on aerosolized face tent at FiO2 of 50%, now on nasal cannula at 6L
   with O2 sats 94-97%.  Vital signs stable.
   - Febrile to 101.1 yesterday morning, started on Vanc/cefepime for
   probable pneumonia.  Trended down over the last 24 hours, with current
   temperature of 99.3.  Urine culture showed GBS, sputum culture grew
   coag-+ Staph aureus, and other sputum and blood cultures pending.  Sent
   blood cultures again.
   - Changed meds to PO and has had sips of water, complaining of thirst
   today
   - Hematocrit [**8-30**] at 19:00 25.7 (down from 27.0 [**8-30**] at 7:00am) .
   Re-check at 01:00 [**8-31**] was stable at 25.2. 2 units typed and crossed in
   preparation for continued falling Hct.
   - Patient with a few episodes of bradycardia to the 40
s overnight,
   with sinus pauses on tele. Patient would cough and return to HR in the
   70
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2118-8-30**] 08:00 PM
   Cefipime - [**2118-8-31**] 04:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2118-8-30**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: +thirst
   Flowsheet Data as of  [**2118-8-31**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.4
C (99.3
   HR: 74 (60 - 97) bpm
   BP: 115/61(73) {106/53(66) - 140/75(91)} mmHg
   RR: 27 (14 - 27) insp/min
   SpO2: 94% on 6L
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.6 kg (admission): 99 kg
   Height: 69 Inch
             Total In:
                                                                  3,309 mL
                                                                    410 mL
   PO:
                                                                    600 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  2,609 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,390 mL
                                                                    305 mL
   Urine:
                                                                  1,390 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,919 mL
                                                                    105 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   RR (Spontaneous): 20
   Physical Examination
   General Appearance: Well nourished, no acute distress, Overweight /
   Obese; sleeping soundly but easily arousable and conversant
   Eyes / Conjunctiva: Pupils reactive bilaterally
   Head, Ears, Nose, Throat: With substantial amount of dried blood in
   mouth with foul odor coming from mouth
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: PMI normal, S1 and S2 normal, distant heart sounds
   Respiratory / Chest: Rhonchi in anterior lung fields, non productive
   cough with speech, no discrete areas of decreased breath sounds
   Abdominal: Soft, Non-tender, bowel sounds present, Not Distended,
   Obese;
   Extremities: Very trace edema bilaterally
   Peripheral Vascular: 2+ radial pulses bilaterally, 2+ DP and PT pulses
   bilaterally
   Neurologic: Patient interactive and following all commands, oriented to
   person and place (
hospital, [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]
t know which one
) but not to year
   (
[**2108**]
   Labs / Radiology
   160 K/uL
   9.0 g/dL
   118 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.7 mEq/L
   22 mg/dL
   110 mEq/L
   143 mEq/L
   25.5 %
   7.8 K/uL
        [image002.jpg]
                             [**2118-8-28**]  10:45 PM
                             [**2118-8-29**]  01:47 AM
                             [**2118-8-29**]  03:41 AM
                             [**2118-8-29**]  11:31 AM
                             [**2118-8-29**]  02:45 PM
                             [**2118-8-29**]  03:05 PM
                             [**2118-8-30**]  03:45 AM
                             [**2118-8-30**]  07:00 PM
                             [**2118-8-31**]  12:50 AM
                             [**2118-8-31**]  03:58 AM
   WBC
   11.0
   10.8
   9.6
   10.2
   7.8
   Hct
   33.8
   31.0
   28.5
   31
   27.0
   25.7
   25.2
   25.5
   Plt
   185
   162
   162
   149
   160
   Cr
   0.8
   0.8
   1.0
   1.0
   0.8
   TropT
   3.23
   2.36
   TCO2
   29
   29
   Glucose
   102
   117
   122
   124
   118
   Other labs: PT / PTT / INR:13.8/37.5/1.2, CK / CKMB /
   Troponin-T:1254/12/2.36 (down from CK 2123 yesterday morning), ALT /
   AST:76/66 (down from 110/[**Age over 90 **] yesterday), Alk Phos / T Bili:55/0.8,
   Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:1.4 mg/dL
   Urine culture [**2118-8-29**]: Group B Strep >100,000 organisms/ml
Sputum culture [**2118-8-29**]: Gram stain showed 4+ Gram Positive Cocci in pairs and cl
usters, 2+ gram positive rods.  Culture with heavy growth of Staph aureus (coag
+) and oropharyngeal flora.
   Sputum culture [**2118-8-30**]: Gram stain showed 4+ Gram Positive Cocci in
   pairs and clusters, 4+ gram positive rods, 1+ GNR, 1+ GN diplococci,
   culture pending
   Blood cultures from [**8-29**] and [**8-31**] pending
   Wound culture from catheter tip ([**8-29**]): No significant growh
   CXR [**2118-8-30**]: The ET tube tip is about 2 cm above the carina. The NG
   tube tip passes below the diaphragm, most likely terminating in the
   stomach, although its tip is below the inferior margin of the field.
   There is unchanged left basal opacity consistent most likely with
   atelectasis with a smaller area of right basilar opacity. Small
   bilateral pleural effusions are most likely present. There is no overt
   evidence of pneumothorax. Overall, there is no pulmonary edema and no
   areas of lung consolidation in addition to areas of atelectasis to
   suggest infectious process.
   EEG [**2118-8-30**]: This is an abnormal video-EEG study due to the slow
   background burst suppressive bursts. However, the background rhythm
   appeared to be more organized and the patient appeared to progress to
   drowsiness which is new compared to yesterday's recording. These
   findings continue to suggest an encephalopathy invovling both cortical
   and subcortical structures. Medications, metabolic disturbances, and
   infection are among the most common causes. There were no clearly
   epileptiform features.
   Assessment and Plan
   The patient is a 61 yo man with h/o CAD s/p DES to the LAD and D1, and
   hyperlipidemia, who presented from [**Hospital3 519**] with STEMI.  He is
   now s/p Vfib arrest, was coded for approximately 54 minutes and is s/p
   cardiac cath with BMS to the RCA.  He has been extubated and is overall
   improving.
   .
   # Fever: Antibiotics were started yesterday secondary to concern for a
   developing pneumonia.  He was started on vancomycin and cefepime, and
   his fevers have trended down since beginning antibiotics.  His sputum
   gram stain continues to show gram positive cocci and rods, and his
   urine culture has grown Group B Strep.  His white count is not elevated
   today at 7.8.
   -          Continue Vanc/Cefepime today (today is day [**3-19**])
   -          F/u with final reads of sputum culture with sensitivities,
   UCx, Blood Cx
s, and Femoral Tip Cx pending
   -          Antibiotic approval received
   # STEMI: He was found to have STe in II, III, AVF, and after one hour
   of resuscitiation, subsequent cardiac catheterization demonstrated a
   fresh thrombus in the mid-RCA.  Heparin and integrilin gtts were held
   secondary to nose bleed. He has been cooled and rewarmed.  Cardiac
   enzymes continue to trend down this morning. Patient status improving,
   now off pressors and extubated.
   - Continue to monitor blood pressures.  If low BP, will bolus with
   IVF.  Have stopped continuous IVF.
   - Continue ASA 325 mg daily, Plavix 75 mg daily
   - Continue Lipitor 80 po mg daily
   - Start Metroprolol 12.5 mg PO BID
   - Start 20mg Lasix this AM
   - FU I/O
   - If pt develops pulmonary edema, will consider acute MR and contact
   cards fellow.
   .
   #. Respiratory Distress:  Patient now extubated and with stable vital
   signs and O2 sats on nasal cannula.
    -  Wean O2 as tolerated
   -   Start Lasix 20mg Daily PO
   -   Start Ipratroprium Nebs Q6Hrs.
    -  Will continue to treat possible pneumonia
   #Neuro Status: Patient answering questions and neurologic status
   improving.  Neuro has removed the EEG and feel that he has an
   encephalopathy that may be secondary to sedation or metabolic
   disturbances.
    - Continue to follow neurologic status
    - If focal deficits develop, will consider CT head
   # RHYTHM:  The patient presented in VFib arrest and then had a
   junctional rhythm.  He is currently in sinus rhythm, although had some
   sinus pauses overnight.
    - Continue to monitor on telemetry.
    - Start 12.5 mg Metroprolol SBP >90.
    - Continue to replete K > 4.0 and Mg > 2.0
   # Acute Systolic Congestive Heart Failure:  He does not have a known
   history of CHF, per our records, and these elevated filling pressures
   seen in the cath lab are most likely [**3-14**] his acute RV infarct.
   Currently stable disease as patient does not appear fluid overloaded.
    - TTE with LVEF > 55% without wall motion abnormalities is encouraging
   for minimal disease
    - Hold on diuresis for now, as patient is pre-load dependent
    - Will continue to follow for signs of fluid overload, and diurese as
   needed
   .
   # Anemia:  With bloody secretions from the back of his throat yesterday
   morning. HCT trending down 31->25, but stable this morning.
   - Will continue to check Hct [**Hospital1 **]
   - Transfuse if Hct <21
   - Active type/screen and crossmatch
   - Continue Afrin NS as needed
   - Consider ENT C/S if bleeding starts again
   #Thrombocytopenia: Platelets improved to 160 today (from [**Age over 90 105**]
   yesterday).
   - Continue to monitor
   .
    #Shock Liver: LFTs continue to trend down. Normal INR.
   - Continue to monitor daily LFTs
   .
   # Diabetes: Blood sugars 127-180.
   - Continue sliding scale today and continue to monitor FSBS
   ICU Care
   Nutrition: No longer NPO, Advance as tolerated
   Glycemic Control: Regular insulin sliding scale
   Lines: 20 Gauge - [**2118-8-27**] 06:30 PM
   18 Gauge - [**2118-8-27**] 06:30 PM
   Prophylaxis:
   DVT: Boots, SC heparin
   Stress ulcer: H2 Blocker (on ranitidine)
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments: PT consult today.
   Communication:  Comments: [**Name (NI) 412**] (Sister in [**Name2 (NI) **]) Primary Contact
   [**Telephone/Fax (1) 7845**]. [**Name (NI) 189**] [**Name (NI) 7817**] (Sister) [**0-0-**].
   Code status: Full code
   Disposition: Floor later today if continues to improve
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   Above discussed extensively with patient.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2118-8-31**]
   11:04 ------

2118-09-01 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: STEMI
   24 Hour Events:
   - Given 20mg po Lasix, but only urinated about 190cc.  Still with
   significant oxygen requirement and rhonchi on exam, and desats
   immediately with removal of O2.
   - Given 20mg IV Lasix - diuresed well (400cc in first hour), breathing
   more comfortably.  Ipratropium nebs do not seem to improve his
   breathing. Second, 20mg IV Lasix at 2200. Coughing has increased
   considerably: chest PT and guafenisin started yesterday.
   - Started metoprolol 12.5mg po bid and Lisinopril 2.5mg Daily, added
   evening dose; 25 mg of trazadone
   - 1600 Temp of 101.9. Blood cultures within 24 hours so did not repeat.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2118-8-31**] 04:00 PM
   Vancomycin - [**2118-8-31**] 08:00 PM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2118-8-31**] 07:15 PM
   Heparin Sodium (Prophylaxis) - [**2118-8-31**] 10:00 PM
   Furosemide (Lasix) - [**2118-8-31**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-9-1**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.1
C (98.7
   HR: 84 (67 - 97) bpm
   BP: 134/72(86) {109/60(59) - 147/97(104)} mmHg
   RR: 22 (13 - 34) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.6 kg (admission): 99 kg
   Height: 69 Inch
                  Total In:
                                                                  1,900 mL
                                                                    600 mL
   PO:
                                                                  1,400 mL
                                                                    600 mL
   TF:
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                  3,545 mL
                                                                    590 mL
   Urine:
                                                                  3,545 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,645 mL
                                                                     10 mL
   Respiratory support
   O2 Delivery Device: 5 Liters Nasal cannula
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, no acute distress, Overweight /
   Obese; sleeping soundly but easily arousable and conversant;
   Eyes / Conjunctiva: Pupils reactive bilaterally
   Head, Ears, Nose, Throat: Foul odor coming from mouth
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: PMI normal, S1 and S2 normal, distant heart sounds
   Respiratory / Chest: Rhonchi in anterior lung fields, non productive
   cough with speech, no discrete areas of decreased breath sounds;
   wheezes diffusely throughout and crackles in the bases
   Abdominal: Soft, Non-tender, bowel sounds present, Not Distended,
   Obese;
   Extremities: Very trace edema bilaterally
   Peripheral Vascular: 2+ radial pulses bilaterally, 2+ DP and PT pulses
   bilaterally
   Neurologic: Patient interactive and following all commands, oriented to
   person and place (
[**Hospital6 **]) but not to year (
[**2108**], no
   [**2109**]
   Labs / Radiology
   115 K/uL
   9.6 g/dL
   117 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.9 mEq/L
   20 mg/dL
   105 mEq/L
   142 mEq/L
   26.8 %
   7.4 K/uL
        [image002.jpg]
                             [**2118-8-29**]  03:41 AM
                             [**2118-8-29**]  11:31 AM
                             [**2118-8-29**]  02:45 PM
                             [**2118-8-29**]  03:05 PM
                             [**2118-8-30**]  03:45 AM
                             [**2118-8-30**]  07:00 PM
                             [**2118-8-31**]  12:50 AM
                             [**2118-8-31**]  03:58 AM
                             [**2118-8-31**]  06:20 PM
                             [**2118-9-1**]  03:43 AM
   WBC
   10.8
   9.6
   10.2
   7.8
   7.4
   Hct
   31.0
   28.5
   31
   27.0
   25.7
   25.2
   25.5
   26.8
   Plt
   162
   162
   149
   160
   115
   Cr
   0.8
   1.0
   1.0
   0.8
   0.9
   0.8
   TropT
   3.23
   2.36
   TCO2
   29
   Glucose
   117
   122
   124
   118
   130
   117
   Other labs: PT / PTT / INR:13.8/37.5/1.2, CK / CKMB /
   Troponin-T:1254/12/2.36, ALT / AST:76/66, Alk Phos / T Bili:55/0.8,
   Differential-Neuts:88.4 %, Lymph:5.4 %, Mono:6.0 %, Eos:0.2 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.8 g/dL, LDH:781 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.3 mg/dL
Prelim Sputum Culture: STAPH AUREUS COAG +.    MODERATE GROWTH.
                       GRAM NEGATIVE ROD(S).    RARE GROWTH
RESPIRATORY CULTURE (Final [**2118-8-31**]):
      SPARSE GROWTH OROPHARYNGEAL FLORA.
      STAPH AUREUS COAG +.    HEAVY GROWTH.
Tip Culture: No growth
Blood Culture: [**8-31**], pending
   Assessment and Plan
   The patient is a 61 yo man with h/o CAD s/p DES to the LAD and D1, and
   hyperlipidemia, who presented from [**Hospital3 519**] with STEMI.  He is
   now s/p Vfib arrest, was coded for approximately 54 minutes and is s/p
   cardiac cath with BMS to the RCA.  He has been extubated and is overall
   improving.
   .
   #. Respiratory Distress:  Patient now extubated and with stable vital
   signs and O2 sats on nasal cannula. Active cough with small amounts of
   sputum expectorated. Continues to desat when supplemental O2 is
   stopped; did diurese well overnight, but not at goal.  O2 requirement
   slowly decreasing.
   - Start Lasix 20mg po daily as LOS still positive 1.7 liters
   - Continually monitor for signs of decompensation as patient is more
   preload dependent secondary to RV infarct.
   - Continue Ipratroprium Nebs Q6Hrs and guafenisin; consider adding
   mucomyst nebs today if not improved
   - Chest PT and wean O2 as tolerated
   - Will continue to treat possible pneumonia
   # Fever: Antibiotics were started secondary to concern for a developing
   pneumonia.  He was started on vancomycin and cefepime. Urine culture
   has grown Group B Strep. Sputum Cx: GPC sensitive to levofloxacin,
   oxacillin, and TMP-SMX, resistant to erythro and gent.  The next day's
   sputum gram stain showed GPC and GPR with sensitivities pending. His
   white count is not elevated today at 7.4, but did spike a fever
   overnight;
   -       Continue Vanc/Cefepime today (today is day [**4-16**]); will wait to
   narrow antibiotics until second set of sputum cultures have
            sensitivities as the first set is likely a contaminant.
   -          F/u with final reads of sputum culture with sensitivities
   and Blood Cx
   -          Will d/c foley today
   -          Femoral Tip Cx: no growth
   -          Antibiotic approval received
   # STEMI: He was found to have STe in II, III, AVF, and after one hour
   of resuscitiation, subsequent cardiac catheterization demonstrated a
   fresh thrombus in the mid-RCA.  Heparin and integrilin gtts were held
   secondary to nose bleed. He has been cooled and rewarmed.  Cardiac
   enzymes continue to trend down this morning. Patient status improving,
   now off pressors and extubated.
   - Continue to monitor blood pressures.  If low BP, will bolus with
   IVF.  Have stopped continuous IVF.
   - Continue ASA 325 mg daily, Plavix 75 mg daily
   - Continue Lipitor 80 po mg daily
   - Increase Metroprolol  to 25 mg PO BID to HR<70
   - FU I/O
s- If pt develops pulmonary edema, will consider acute MR and
   contact cards fellow.
   .
   #Thrombocytopenia: Platelets decreased to 116 today (from 160
   yesterday). Started at 293 on admission. No signs of active bleeding.
   Concern for HIT Type 2 as day 5 of heparin
   - D/C heparin, will ambulate him in the meantime
   - Send HIT antibodies
   - Continue to monitor
   #Neuro Status: Patient answering questions and neurologic status
   improving.  Neuro has removed the EEG and feel that he has an
   encephalopathy that may be secondary to sedation or metabolic
   disturbances.  Mild inattention and memory deficits that should be
   expected to improve with time  once toxic metabolic and infectious
   disturbances subside
   - Continue to follow neurologic status
   - If focal deficits develop, will consider CT head
   - Neuro Rehab with [**First Name8 (NamePattern2) 7916**] [**Last Name (NamePattern1) 4727**]; [**Hospital 25**] Rehab Facility; will d/w
   case management.
   - Outpatient sleep study for ?obstructive sleep apnea vs central cause
   of apnea
   # RHYTHM:  The patient presented in VFib arrest and then had a
   junctional rhythm.  He is currently in sinus rhythm. Several brief
   apnic episodes overnight without desaturating.
    - Continue to monitor on telemetry.
    - Increased to 25 mg Metroprolol SBP >90.
    - Continue to replete K > 4.0 and Mg > 2.0
    - Consider sleep study in outpatient for possible OSA.
   # Acute Systolic Congestive Heart Failure:  He does not have a known
   history of CHF, per our records, and these elevated filling pressures
   seen in the cath lab are most likely [**3-14**] his acute RV infarct.
   Currently stable disease as patient does not appear fluid overloaded.
    - TTE with LVEF > 55% without wall motion abnormalities is encouraging
   for minimal disease
    - Will continue to follow for signs of fluid overload, and diurese as
   needed
   .
   # Anemia:  S/P significant nasal bleed secondary to NG tube trauma. HCT
   trended down, but stabilizing, initially 31->25, but 26.8 this morning.
   No signs of active bleeding.
   - Will continue to check Hct daily
   - Transfuse if Hct <21
   - Active type/screen and crossmatch
   - Continue Afrin NS as needed
   - Consider ENT C/S if bleeding starts again
    #Shock Liver: LFTs continue to trend down. Normal INR.
   - Continue to monitor daily LFTs
   .
   # Diabetes: Blood sugars. 138-140
    -  Continue sliding scale today and continue to monitor FSBS
   # Mobility: Improving
   -F/u PT consult today
   ICU Care
   Nutrition: Advance as tolerated
   Glycemic Control: Regular insulin sliding scale
   Lines: 20 Gauge - [**2118-8-27**] 06:30 PM, 18 Gauge - [**2118-8-27**] 06:30 PM
   Prophylaxis:
   DVT: Boots, SC heparin
   Stress ulcer: H2 Blocker (on ranitidine)
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments: PT consult today.
   Communication:  Comments: [**Name (NI) 412**] (Sister in [**Name2 (NI) **]) Primary Contact
   [**Telephone/Fax (1) 7845**]. [**Name (NI) 189**] [**Name (NI) 7817**] (Sister) [**0-0-**].
   Code status: Full code
   Disposition: Likely to [**Hospital Ward Name 383**] 3 today if continues to improve
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks: Moving in right direction both
   neurologically and hemodynamically
   Above discussed extensively with patient.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2118-9-1**]
   15:05 ------

2118-09-02 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  STEMI
   24 Hour Events:
   - Dyspnea in the evening with loud rhonchi and wheezes on exam.  RR in
   30's and about to be called out to floor, decided to keep him overnight
   in the CCU as he was in significant respiratory distress. Given 20 mg
   IV lasix and seemed to improve some.
   -Patient with nausea during the afternoon, given compazine
   - Walked with PT, up in chair during the day
   - Spiked to 101.9 again at 1600, sent blood cultures, given tylenol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2118-9-1**] 09:30 PM
   Cefipime - [**2118-9-2**] 03:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2118-9-1**] 08:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No Chest Pain, No SOB, c/o cough
   Flowsheet Data as of  [**2118-9-2**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.1
C (98.7
   HR: 73 (63 - 92) bpm
   BP: 134/77(92) {88/41(53) - 163/99(104)} mmHg
   RR: 25 (18 - 29) insp/min
   SpO2: 98% on 3L
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100 kg (admission): 99 kg
   Height: 69 Inch
             Total In:
                                                                  2,200 mL
                                                                     50 mL
   PO:
                                                                  1,800 mL
             TF:
   IVF:
                                                                    400 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,620 mL
                                                                    920 mL
   Urine:
                                                                  2,620 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -420 mL
                                                                   -870 mL
   Respiratory support
   O2 Delivery Device: 3 Liters Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, no acute distress, Overweight /
   Obese; sleeping soundly but easily arousable and conversant;
   Eyes / Conjunctiva: Pupils reactive bilaterally
   Head, Ears, Nose, Throat: Foul odor coming from mouth
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: PMI normal, S1 and S2 normal, distant heart sounds
   Respiratory / Chest: Rhonchi in anterior lung fields, non productive
   cough with speech, no discrete areas of decreased breath sounds;
   Abdominal: Soft, Non-tender, bowel sounds present, Not Distended,
   Obese;
   Extremities: No edema
   Peripheral Vascular: 2+ radial pulses bilaterally, 2+ DP and PT pulses
   bilaterally
   Neurologic: Patient interactive and following all commands, alert and
   oriented to person and time, not to place. ([**Hospital6 **])
   Labs / Radiology
   198 K/uL
   9.4 g/dL
   118 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.7 mEq/L
   20 mg/dL
   104 mEq/L
   140 mEq/L
   27.4 %
   7.8 K/uL
        [image002.jpg] FSBS: 127-150
                             [**2118-8-29**]  02:45 PM
                             [**2118-8-29**]  03:05 PM
                             [**2118-8-30**]  03:45 AM
                             [**2118-8-30**]  07:00 PM
                             [**2118-8-31**]  12:50 AM
                             [**2118-8-31**]  03:58 AM
                             [**2118-8-31**]  06:20 PM
                             [**2118-9-1**]  03:43 AM
                             [**2118-9-1**]  05:07 PM
                             [**2118-9-2**]  04:11 AM
   WBC
   9.6
   10.2
   7.8
   7.4
   7.8
   Hct
   28.5
   31
   27.0
   25.7
   25.2
   25.5
   26.8
   27.4
   Plt
   162
   149
   160
   115
   204
   198
   Cr
   1.0
   1.0
   0.8
   0.9
   0.8
   0.8
   0.7
   TropT
   3.23
   2.36
   Glucose
   122
   124
   118
   130
   117
   110
   118
   Other labs: PT / PTT / INR:13.5/37.5/1.2, CK / CKMB /
   Troponin-T:1254/12/2.36, ALT / AST:56/62, Alk Phos / T Bili:55/1.1,
   Differential-Neuts:88.4 %, Lymph:5.4 %, Mono:6.0 %, Eos:0.2 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.8 g/dL, LDH:781 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:1.9 mg/dL
   Vanc level: 7.3
   Blood Cultures x 3- all pending: [**8-29**], [**8-31**], [**9-1**]
   Sputum culture sensitivity pending: STAPH AUREUS COAG +.    MODERATE
   GROWTH.
   No CXR
   Assessment and Plan
   The patient is a 61 yo man with h/o CAD s/p DES to the LAD and D1, and
   hyperlipidemia, who presented from [**Hospital3 519**] with STEMI.  He is
   now s/p Vfib arrest, was coded for approximately 54 minutes and is s/p
   cardiac cath with BMS to the RCA.  He has been extubated and is overall
   improving.
   .
   #. Respiratory Distress:  Patient now extubated and with stable vital
   signs and O2 sats on nasal cannula. Active cough with small amounts of
   sputum expectorated. Continues to desat when supplemental O2 is
   stopped. O2 requirement slowly decreasing. One episode of increased
   distress overnight with tachypnea; CXR shows no acute changes
possibly
   secondary to PNA plus atelectasis plus pulmonary edema plus effusions
   - Switch to Lasix 20mg po BID as LOS still positive 395 cc, will
   monitor UOP on po Lasix
   - Continually monitor for signs of decompensation as patient is more
   preload dependent secondary to RV infarct.
   - Continue Ipratroprium Nebs Q6Hrs and guafenesin
   - Chest PT and wean O2 as tolerated
   - Will continue to treat possible pneumonia
   # Fever: Antibiotics were started secondary to concern for a developing
   pneumonia.  He was started on vancomycin and cefepime. Urine culture
   has grown Group B Strep. Sputum Cx: GPC sensitive to levofloxacin,
   oxacillin, and TMP-SMX, resistant to erythro and gent.  The next day's
   sputum gram stain showed GPC and GPR with sensitivities pending. His
   white count is not elevated today at 7.4, but did spike a fever
   overnight;
   -       Continue Vanc/Cefepime today (today is day [**5-17**]); will wait to
   narrow antibiotics until second set of sputum cultures have
            sensitivities as the first set is likely a contaminant.
   -          F/u with final reads of sputum culture with sensitivities
   and Blood Cx
s x 3
   -      Femoral Tip Cx: no growth
   -          Antibiotic approval received
   -          Vanc level low at 7.3, will re-dose Vanc
   # STEMI: He was found to have STe in II, III, AVF, and after one hour
   of resuscitiation, subsequent cardiac catheterization demonstrated a
   fresh thrombus in the mid-RCA.  Heparin and integrilin gtts were held
   secondary to nose bleed. He has been cooled and rewarmed.  Cardiac
   enzymes continue to trend down this morning. Patient status improving,
   now off pressors and extubated.
   - Continue to monitor blood pressures.  If low BP, will bolus with
   IVF.  Have stopped continuous IVF.
   - Continue ASA 325 mg daily, Plavix 75 mg daily
   - Continue Lipitor 80 po mg daily
   - Continue metroprolol at 25 mg PO BID to HR<70
   - FU I/O
s- If pt develops pulmonary edema, will consider acute MR and
   contact cards fellow.
   .
   #Thrombocytopenia: Platelets increased to 198 today (from [**Age over 90 **]
   yesterday). Started at 293 on admission. No signs of active bleeding.
   Concern for HIT Type 2 as day 5 of heparin, so d/c
d yesterday.
   Improving off of heparin
   - Continue to hold heparin, will ambulate him in the meantime
   - Continue to monitor with daily cbc
   #Neuro Status: Patient answering questions and neurologic status
   improving.  Neuro has removed the EEG and feel that he has an
   encephalopathy that may be secondary to sedation or metabolic
   disturbances.  Mild inattention and memory deficits that should be
   expected to improve with time  once toxic metabolic and infectious
   disturbances subside
   - Neuro will likely sign off today as no other interventions needed at
   this time
   - Continue to follow neurologic status
   - If focal deficits develop, will consider CT head
   - Neuro Rehab with [**First Name8 (NamePattern2) 7916**] [**Last Name (NamePattern1) 4727**]; [**Hospital 25**] Rehab Facility; will d/w
   case management.
   - Outpatient sleep study for ?obstructive sleep apnea vs central cause
   of apnea
   # RHYTHM:  The patient presented in VFib arrest and then had a
   junctional rhythm.  He is currently in sinus rhythm.
    - Continue to monitor on telemetry.
    - Continue 25 mg Metroprolol [**Hospital1 **] with SBP >90.
    - Continue to replete K > 4.0 and Mg > 2.0
    - Consider sleep study in outpatient for possible OSA.
   # Acute Systolic Congestive Heart Failure:  He does not have a known
   history of CHF, per our records, and these elevated filling pressures
   seen in the cath lab are most likely [**3-14**] his acute RV infarct.
   Currently stable disease as patient does appear slightly overloaded
   with crackles on physical exam.
    - TTE with LVEF > 55% without wall motion abnormalities is encouraging
   for minimal disease
    - Will continue to follow for signs of fluid overload, and diurese as
   needed
   .
   # Anemia:  S/P significant nasal bleed secondary to NG tube trauma. HCT
   trended down, but stabilizing, initially 31->25, but 27.4 this morning.
   No signs of active bleeding.
   - Will continue to check Hct daily
   - Transfuse if Hct <21
   - Active type/screen and crossmatch
   - Continue Afrin NS as needed
   - Consider ENT C/S if bleeding starts again
    #Shock Liver: LFTs continue to trend down. Normal INR.
   - Continue to monitor daily LFTs
   .
   # Diabetes: Blood sugars. 127-150
    -  Continue sliding scale today and continue to monitor FSBS
   ICU Care
   Nutrition: Advance as tolerated, stil on liquids
   Glycemic Control: Regular insulin sliding scale
   Lines: 20 Gauge - [**2118-8-27**] 06:30 PM, 18 Gauge - [**2118-8-27**] 06:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 Blocker (on ranitidine)
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed none
   Comments: PT: recommend d/c to rehab with 2-3 hours of
   multidisciplinary therapy daily.
   Communication:  Comments: [**Name (NI) 412**] (Sister in [**Name2 (NI) **]) Primary Contact
   [**Telephone/Fax (1) 7845**]. [**Name (NI) 189**] [**Name (NI) 7817**] (Sister) [**0-0-**].
   Code status: Full code
   Disposition: Likely to [**Hospital Ward Name 383**] 3 today if continues to improve
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with patient.
   Neuro status continues to improve.  Still with lots of resp secretions;
   no evidence of CHF.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2118-9-2**]
   11:30 ------